US05929074
N-Benzyloxycarbonyl-3-carboxymethyloxy-4-methoxybenzylamine
A mixture comprising 23.56 of N-benzyloxycarbonyl-3-ethoxycarbonylmethyloxy-4-methoxybenzylamine, 7.29 g of sodium hydroxide, 300 ml of methanol and 30 ml of water, was stirred at 60° C. for one hour. The reaction solution was neutralized by an addition of hydrochloric acid, and the solvent was distilled off under reduced pressure. Dilute hydrochloric acid was added to the obtained residue, and the mixture was extracted with chloroform. The extract layer was washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off. The obtained residue was crystallized from diethyl ether/n-hexane to obtain 21.55 g of the above-identified compound as white crystals.

reactant | N-benzyloxycarbonyl-3-ethoxycarbonylmethyloxy-4-methoxybenzylamine | C(C1=CC=CC=C1)OC(=O)NCC1=CC(=C(C=C1)OC)OCC(=O)OCC | C20H23NO6
reactant | sodium hydroxide | 7.29 g | [OH-].[Na+]
reactant | methanol | 300 ml | CO | CH4O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
product | N-Benzyloxycarbonyl-3-carboxymethyloxy-4-methoxybenzylamine | 21.55 g | C(C1=CC=CC=C1)OC(=O)NCC1=CC(=C(C=C1)OC)OCC(=O)O | C18H19NO6
